US06124283
(R)-N-[5-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide
To a solution of 4-morpholinobenzoic acid (110 mg, 0.51 mmol) in anhydrous N,N-dimethylformamide (10 mL) was added 1,1'-carbonyldiimidazole (87 mg, 0.54 mmol) and the reaction was heated at 75° C. When the carbon dioxide evolution had ceased (after 30 min), the reaction was cooled to room temperature and a solution of (R)-2-amino-5-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (120 mg, 0.49 mmol) in anhydrous N,N-dimethylformamide (5 mL) was added. The reaction was allowed to stir at 70° C. for 18 h and the solvent was evaporated in vacuo. The residue was purified on a silica gel column using chloroform/ethanol saturated with NH3 (100:3) as the eluent. This gave after crystallization from acetonitrile, 65 mg (30% yield) of the title compound as white crystals: mp 127-128° C.; [α]21D +51° (c 0.50, chloroform); EIMS (70 eV) m/z (relative intensity) 434 (14, M+).

reactant | 4-morpholinobenzoic acid | 0.51 mmol, 110 mg | O1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | 1,1'-carbonyldiimidazole | 0.54 mmol, 87 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | (R)-2-amino-5-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.49 mmol, 120 mg | N[C@H]1CC2=CC=CC(=C2CC1)N1CCN(CC1)C | C15H23N3
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | (R)-N-[5-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide | 65 mg, 30% yield | CN1CCN(CC1)C1=C2CC[C@H](CC2=CC=C1)NC(C1=CC=C(C=C1)N1CCOCC1)=O | C26H34N4O2
